US08980904B2
4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylic acid (300 mg, 0.88 mmol), DIEA (0.5 mL, 2.88 mmol) were dissolved in 30 mL of THF, HATU (405 mg, 1.06 mmol) and pyrimidin-2-ylmethylamine (115 mg, 1.06 mmol) were added under ice-water-bath, reacted at room temperature overnight, to the reaction solution was added 100 mL of water, then extracted with dichloromethane, dried with anhydrous sodium sulfate, dried by rotation, then solid was separated with silica gel column (dichloromethane:methanol=40:1) to obtain a white solid 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-carboxamide 60 mg, yield 16%.

reactant | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylic acid | 0.88 mmol, 300 mg | ClC=1C=C(COC2=NC(=NC=C2C(=O)O)SC)C=CC1OC | C14H13ClN2O4S
reactant | DIEA | 2.88 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.06 mmol, 405 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrimidin-2-ylmethylamine | 1.06 mmol, 115 mg | N1=C(N=CC=C1)CN | C5H7N3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-carboxamide | 60 mg, yield 16% | ClC=1C=C(COC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)SC)C=CC1OC | C19H18ClN5O3S
